US08242116B2
1-(6-Chloropyridin-3-yl)-4-methylpiperazine
The title compound was prepared from 5-bromo-2-chloropyridine and 1-methylpiperazine according to Method BG and was isolated as a brown oil (27%). LCMS (ES+) 212.0 (M+H)+, RT 1.97 minutes (70% purity) (Method 2).

reactant | 5-bromo-2-chloropyridine | BrC=1C=CC(=NC1)Cl | C5H3BrClN
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 1-(6-Chloropyridin-3-yl)-4-methylpiperazine | ClC1=CC=C(C=N1)N1CCN(CC1)C | C10H14ClN3
